US09290454B2
LiOH.H2O (0.229 g, 5.47 mmol) was added to a stirred, room temperature mixture of methyl 3-(5-(tert-butoxy)-5-oxopentyl)-2-(4-fluorophenyl)-1-oxo-1,2-dihydroisoquinoline-6-carboxylate (1.24 g, 2.73 mmol) in MeOH (5 mL), tetrahydrofuran (5.00 mL) and water (5.00 mL) and the mixture was stirred at room temperature for 3 h. The reaction mixture was diluted with diethyl ether (10 mL), water (5 mL) was added, the aqueous layer was separated, acidified with hydrochloric acid (2 M) to pH 2-3, extracted with dichloromethane (2×30 mL), the combined organic was dried (MgSO4), filtered and concentrated to give 3-(5-(tert-butoxy)-5-oxopentyl)-2-(4-fluorophenyl)-1-oxo-1,2-dihydroisoquinoline-6-carboxylic acid (1.153 g, 2.62 mmol) as a yellow solid.

reactant | LiOH.H2O | 5.47 mmol, 0.229 g | O[Li].O
reactant | methyl 3-(5-(tert-butoxy)-5-oxopentyl)-2-(4-fluorophenyl)-1-oxo-1,2-dihydroisoquinoline-6-carboxylate | 2.73 mmol, 1.24 g | C(C)(C)(C)OC(CCCCC=1N(C(C2=CC=C(C=C2C1)C(=O)OC)=O)C1=CC=C(C=C1)F)=O | C26H28FNO5
solvent | MeOH | 5 mL | CO | CH4O
solvent | tetrahydrofuran | 5.00 mL | O1CCCC1 | C4H8O
solvent | water | 5.00 mL | O | H2O
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
solvent | water | 5 mL | O | H2O
product | 3-(5-(tert-butoxy)-5-oxopentyl)-2-(4-fluorophenyl)-1-oxo-1,2-dihydroisoquinoline-6-carboxylic acid | 2.62 mmol, 1.153 g | C(C)(C)(C)OC(CCCCC=1N(C(C2=CC=C(C=C2C1)C(=O)O)=O)C1=CC=C(C=C1)F)=O | C25H26FNO5
